US07842688B2
a) tert-Butyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(4-phenylpiperidine-1-carbonyl)phenyl]piperidine-1-carboxylate
A solution of 0.122 g of 4-phenylpiperidine in 2 ml of dichloromethane is admixed with 0.101 ml of triethylamine. The reaction solution is cooled to 0° and a solution of tert-butyl 4-(4-chlorocarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate in 4 ml of dichloromethane is added dropwise. The reaction mixture is stirred at 0° C. over 40 minutes and subsequently poured onto 25 ml of saturated sodium hydrogencarbonate solution. The mixture is extracted with 80 ml of dichloromethane, the phases are separated and the organic phase is washed with 40 ml each of water and brine, dried over sodium sulphate, filtered and concentrated. The residue is purified by means of flash chromatography (SiO2 60F). The title compound is obtained as a colourless oil. Rf=0.20 (3:1 EtOAc-heptane); Rt=5.44.

reactant | 4-phenylpiperidine | 0.122 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | triethylamine | 0.101 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl 4-(4-chlorocarbonylphenyl)-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | ClC(=O)C1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C30H37ClN2O7
reactant | sodium hydrogencarbonate | 25 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | tert-Butyl 3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-4-[4-(4-phenylpiperidine-1-carbonyl)phenyl]piperidine-1-carboxylate | COCCCN1C(COC2=C1C=C(C=C2)COC2CN(CCC2C2=CC=C(C=C2)C(=O)N2CCC(CC2)C2=CC=CC=C2)C(=O)OC(C)(C)C)=O | C41H51N3O7
